US05807858
Thionyl chloride (26 mL, 0.36 mol) was added dropwise to a solution of 4-carboxybenzaldehyde (50.0 g, 0.33 mol) in 2000 mL of dichloromethane:N,N-dimethylformamide (4:1 mixture). The mixture was stirred overnight at room temperature. Ethylmethylamine (75.0 g, 1.3 mol) was added dropwise, and stirring was continued at room temperature for 90 minutes. The solvent was removed under vacuum, the residue was dissolved in 500 mL of 0.1M sodium hydroxide, and extracted with ethyl acetate. The organic phase was washed with water, dried over sodium sulfate and evaporated under vacuum to give 23.8 g (38%) of N-ethyl-4-formyl-N-methylbenzamide as a yellow oil.

reactant | Thionyl chloride | 0.36 mol, 26 mL | S(=O)(Cl)Cl | Cl2OS
reactant | 4-carboxybenzaldehyde | 0.33 mol, 50.0 g | C(=O)(O)C1=CC=C(C=O)C=C1 | C8H6O3
reactant | Ethylmethylamine | 1.3 mol, 75.0 g | C(C)NC | C3H9N
solvent | dichloromethane N,N-dimethylformamide | 2000 mL | ClCCl.CN(C=O)C
product | N-ethyl-4-formyl-N-methylbenzamide | 23.8 g, 38% | C(C)N(C(C1=CC=C(C=C1)C=O)=O)C | C11H13NO2
